US06451821B1
A suspension of 13.55 g of N-[(1R)-2-hydroxy-1-(3-pyridylmethyl)ethyl]acetamide in 110 cm3 of aqueous 6N hydrochloric acid is heated at a temperature in the region of 100° C. for 3 hours. The water is evaporated off under reduced pressure (3 kPa) at a temperature in the region of 50° C. 16.51 g of (2R)-2-amino-3-(3-pyridyl)-1-propanol dihydrochloride are obtained in the form of an off-white solid. [1H NMR spectrum (400 MHz, (CD3)2SO-d6, δ in ppm): 3.13 (d, J=7.5 Hz: 2H); 3.50 (mt: 2H); 3.62 (mt: 1H); 7.94 (dd, J=8 and 5.5 Hz: 1H); 8.27 (unres. mult.: 3H); 8.43 (broad d, J=8 Hz: 1H); 8.79 (broad d, J=5.5 Hz: 1H); 8.86 (broad s: 1H)].

reactant | N-[(1R)-2-hydroxy-1-(3-pyridylmethyl)ethyl]acetamide | 13.55 g | OC[C@@H](CC=1C=NC=CC1)NC(C)=O | C10H14N2O2
reactant | hydrochloric acid | 6N | Cl | ClH
product | (2R)-2-amino-3-(3-pyridyl)-1-propanol dihydrochloride | 16.51 g | Cl.Cl.N[C@@H](CO)CC=1C=NC=CC1 | InChI=1S/C8H12N2O.2ClH/c9-8(6-11)4-7-2-1-3-10-5-7;;/h1-3,5,8,11H,4,6,9H2;2*1H/t8-;;/m1../s1
